US06927228B2
(c) N-(2-Benzyloxy-5-bromo benzyl)-N-methyl-octanamide
In a manner similar to that of Example 37(e), by reacting 6 g (19.6 mmol) of N-(2-benzyloxy-5-bromo benzyl)-N-methylamine with 3.4 ml (19.6 mmol) of octanoyl chloride, and after purification by chromatography on a column of silica eluted with a heptane/ethyl acetate mixture (8/2), 8 g (95%) of the expected product are obtained in the form of a colorless oil.

reactant | N-(2-benzyloxy-5-bromo benzyl)-N-methylamine | 19.6 mmol, 6 g | C(C1=CC=CC=C1)OC1=C(CNC)C=C(C=C1)Br | C15H16BrNO
reactant | octanoyl chloride | 19.6 mmol, 3.4 ml | C(CCCCCCC)(=O)Cl | C8H15ClO
product | N-(2-Benzyloxy-5-bromo benzyl)-N-methyl-octanamide | C(C1=CC=CC=C1)OC1=C(CN(C(CCCCCCC)=O)C)C=C(C=C1)Br | C23H30BrNO2
